US06593344B1
N-[4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-butyl]-3-pyridin-3-yl-acrylamide (Substance 92)
Batch size: 4.0 g (26.8 mmol) 3-(3-pyridyl)-acrylic acid, 5.7 g (35.2 mmol) CDI and 6.4 g (29.9 mmol) 4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 26.8 mmol, 4.0 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 35.2 mmol, 5.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-butylamine | 29.9 mmol, 6.4 g | O1CCOC12CCN(CC2)CCCCN | C11H22N2O2
product | N-[4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)-butyl]-3-pyridin-3-yl-acrylamide | O1CCOC12CCN(CC2)CCCCNC(C=CC=2C=NC=CC2)=O | C19H27N3O3
